US04375475
Step D. Preparation of 2-(3,5-Dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-4,4-dimethyl-2-oxazoline
By substituting equimolar amounts of 2-(2,4-dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline and 4-fluorophenylmagnesium bromide for 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline and 2-methoxyphenylmagnesium bromide, the title compound was prepared following the procedure of Example 17, Step A, (85%), mp 93°-95° C.

reactant | 2-(2,4-dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline | ClC1=C(C(=CC(=C1)Cl)OC)C=1OCC(N1)(C)C | C12H13Cl2NO2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | 2-methoxyphenylmagnesium bromide | COC1=C(C=CC=C1)[Mg]Br
product | 2-(3,5-Dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-4,4-dimethyl-2-oxazoline | ClC=1C(=C(C=C(C1)Cl)C1=CC=C(C=C1)F)C=1OCC(N1)(C)C | C17H14Cl2FNO
